US04911754
Preparation of: 2-methyl-5-(5-trifluoromethyl-2-pyridyloxy)-2,3-dihydrobenzofuran
A stirred mixture of 2.18 grams (0.012 mole) of 2-chloro-5-trifluoromethyl pyridine, 1.80 grams (0.012 mole) of 2,3-dihydro-2-methyl benzofuranol, 2.07 grams (0.015 mole) of potassium carbonate and 80 milliliters of dimethylsulfoxide was heated, under anhydrous conditions, at a temperature in the range of 65°-72° C. for about 72 hours. After heating was discontinued, the mixture was stirred overnight, then poured into 800 milliliters of water and extracted with 2×250 milliliter portions of diethylether. The combined organic extracts were washed with 2×300 milliliter portions of water, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo affording 2.60 grams of brown oil. The crude product was purified by column chromatography and eluted with 5:95 v/v ethyl acetate:hexane affording 1.64 grams of white crystals confirmed by spectroscopic analysis as the desired product.

reactant | 2-chloro-5-trifluoromethyl pyridine | 0.012 mole, 2.18 grams | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 2,3-dihydro-2-methyl benzofuranol | 0.012 mole, 1.80 grams | CC1(OC2=C(C1)C=CC=C2)O | C9H10O2
reactant | potassium carbonate | 0.015 mole, 2.07 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 80 milliliters | CS(=O)C | C2H6OS
solvent | water | 800 milliliters | O | H2O
product | 2-methyl-5-(5-trifluoromethyl-2-pyridyloxy)-2,3-dihydrobenzofuran | 2.60 grams | CC1OC2=C(C1)C=C(C=C2)OC2=NC=C(C=C2)C(F)(F)F | C15H12F3NO2
